Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfonamides / Shellfish
 
Attending: ___.
 
Chief Complaint:
Cellulitis, Nephrotic Syndrome
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o F with a history of CAD s/p CABG ___, PVD s/p stenting 
___, IDDM, HTN, HLD, hep C, hypothyroidism, and chronic 
bronchitis who presented to ___ ED complaining of ___ R knee 
pain s/p fall 2wks PTA, ~50lb weight gain over the past 6 weeks 
as she has noted swelling in her ankles and feet, along with 
worsening orthopnea, and painful skin ulcers ___ sunburn also 
2wks ago. 
.
Knee pain is due to a fall Ms. ___ took when trying to step up 
and onto a curb--she explained that she missed her step, fell, 
and spent 30 minutes lying on the ground waiting for someone to 
come help her. This fall was her third in the last few months, 
having previously fallen on her face while walking outside her 
apartment ~6 weeks ago, along with a fall ~4 weeks ago when she 
was trying to swing a bag of garbage into the dumpster, during 
which she landed on her L arm and skinned her elbow. Ms. ___ 
denies syncope, palpitations, and confusion leading up to these 
falls, explaining instead that she has felt some general loss of 
balance over the past several months, most apparent when walking 
(i.e. balance issues not present without exertion).
.
Following the fall in which she injured her knee, Ms. ___ 
presented to her PCP with pain and erythema over her right 
pretibia, which was suspicious for cellulitis. Ms. ___ was 
started on Cephalexin 500mg PO TID, but her erythema and 
tenderness ahve not decreased with this treatment.
.
As far as the rash on her legs, Ms. ___ related that several 
weeks ago she was sitting outside for several hours in the yard 
of her apartment complex, wearing shorts, when she developed a 
bad sunburn on her anterior distal thighs, just proximal to her 
knees. This was unusual for her--she doesn't usually burn and 
appears to have type 4 or 5 skin, but on this occasion she 
developed a burn that, over the course of ___ days, developed 
into large blisters on either leg, which popped shortly after 
they appeared. Since then, she has had persistent erosions, the 
remnants of her bullae, which are tender, but have not wept any 
fluid.
.
Finally, in terms of her swelling, dyspnea, orthopnea and cough, 
Ms. ___ explained that for the past ~six weeks, she has gained 
approximately 10lbs each week and noted a concomitant increase 
in DOE, along with a cough which has been productive of some 
sputum but no blood. She visited her PCP on ___ with 
complaints of DOE and cough, as well as bilateral lower 
extremity swelling. According to her PCP's note, Ms. ___ had 
previously been treated with furosemide 20mg BID which she had 
self-terminated, and her PCP advised her to resume taking 
Furosemide 20mg BID, which she has done with approximately 50% 
adherence. Ms. ___ was also prescribed prednisone 10mg daily, 
which Ms. ___ says she took faithfully, but has recently 
finished (she can't remember when she took her last dose).
.
On presentation to the ED today VS were 97.5 142/98 68 20 
100%RA, with a fingerstick glucose of 236. Her chief complaint 
on presentation was ___ knee pain with fluid drainage, in 
addition to the above dyspnea/swelling and ulcers from sunburn. 
Workup in the ED for her dyspnea included PA and Lateral CXR, 
which showed bilateral pleural effusions and a left basilar 
opacity, which has increased since her previous CXR on ___. Leg 
erythema/pain was treated as presumed cellulitis with 1g IV 
vancomycin, and a Knee xray showed no fracture, dislocation or 
effusion.
.
Since coming up to the floor Ms. ___ has continued to complain 
of ___ pain, although she has not appeared to be in such pain. 
She has been fatigued, which she ascribes to lots of activity 
coming here and in the ED. 

 
Social History:
___
Family History:
Mother- CAD, MI, deceased of endocarditis, age uncertain (pt in 
___ at time)
Father- unknown to pt
Son- ___ Obese, HTN
Grandson- 7 healthy
 
Physical Exam:
Vitals: Tm: Tc: 97.1 BP: 160/90 HR: 68 RR: 16 02sat 100% RA
GENERAL: Obese, ill-appearing woman in pain, somewhat fatigued, 
often closing eyes during encounter
HEENT: EOMI, PERRL, sclera anicteric, no LAD. JVD difficult to 
assess given body habitus but none visualized.
CHEST: CTAB anteriorly with crackles on LLL posteriorly
CV: RRR, nl S1, split S2, no M/R/G. Non-displaced PMI.
ABD: Obese, active BS, NT, somewhat distended but resonant to 
percussion with no fluid wave.
NEURO: CN2-12 intact. Cutaneous sensation and vibratory sense 
intact in upper extremities. Decreased cutaneous sensation below 
the knee with complete loss of vibratory sensation. Strength ___ 
in upper extremities and lower extremities. Normal tone 
throughout.
SKIN: Healing scab on L elbow, symmetric ulcers on R and L 
distal thigh. larger on R than left. Keloid on chest over 
incision site for CABG.
 
Pertinent Results:
___ 11:40AM BLOOD WBC-7.3 RBC-3.72* Hgb-11.5* Hct-34.6* 
MCV-93 MCH-31.0 MCHC-33.3 RDW-14.6 Plt ___
___ 05:12AM BLOOD WBC-8.0 RBC-4.00* Hgb-12.4 Hct-36.7 
MCV-92 MCH-31.0 MCHC-33.8 RDW-14.6 Plt ___
___ 11:40AM BLOOD Neuts-61.6 ___ Monos-3.5 Eos-2.7 
Baso-0.6
___ 07:40PM BLOOD ___ PTT-30.3 ___
___ 05:12AM BLOOD ___ PTT-34.2 ___
___ 11:40AM BLOOD Glucose-269* UreaN-26* Creat-1.8* Na-136 
K-4.7 Cl-104 HCO3-26 AnGap-11
___ 05:12AM BLOOD Glucose-79 UreaN-24* Creat-1.6* Na-136 
K-3.7 Cl-103 HCO3-28 AnGap-9
___ 11:40AM BLOOD ALT-50* AST-69* LD(___)-438* AlkPhos-187* 
TotBili-0.3
___ 05:12AM BLOOD ALT-52* AST-87* LD(LDH)-358* AlkPhos-160* 
TotBili-0.3
___ 11:40AM BLOOD proBNP-5780*
___ 05:12AM BLOOD TotProt-5.1* Albumin-2.1* Globuln-3.0 
Calcium-8.2* Phos-3.8 Mg-1.8 Cholest-346*
___ 07:40PM BLOOD Mg-1.8 Cholest-348*
___ 06:00AM BLOOD Hapto-230*
___ 07:40PM BLOOD Triglyc-231* HDL-50 CHOL/HD-7.0 
LDLcalc-252*
___ 05:12AM BLOOD Triglyc-214* HDL-56 CHOL/HD-6.2 
LDLcalc-247*

IMAGING
___ Renal US:
IMPRESSION: Mild increase in renal echogenicity bilaterally 
consistent with chronic renal disease. No hydronephrosis. Small 
bilateral pleural effusion and scant trace of ascites in the 
abdomen. 

___ ECHO:
The left atrium is normal in size. Left ventricular wall 
thicknesses and cavity size are normal. Overall left ventricular 
systolic function is low normal (LVEF 50-55%). There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. Mild (1+) 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Trivial mitral regurgitation is seen. There is 
borderline pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

Compared with the prior study (images reviewed) of ___, 
there is very mild global hypokinesis on the current study. The 
degree of aortic regurgittaion has incresed slightly. Estimated 
pulmonary pressures were lower on the current study.  

___ Knees 2 views:
IMPRESSION: No fracture or dislocation.

 
Brief Hospital Course:
On presentation to the ED VS 97.5 142/98 68 20 100%RA, with FSBS 
236. Her chief complaint on presentation was ___ knee pain 
with erythema and fluid drainage, in addition to 
dyspnea/swelling and ulcers from sunburn. Workup in the ED for 
her dyspnea included PA and Lateral CXR, which showed bilateral 
pleural effusions and a left basilar opacity, which has 
increased since her previous CXR on ___. Leg erythema/pain was 
treated as presumed cellulitis with 1g IV vancomycin, and a Knee 
xray showed no fracture, dislocation or effusion.
.
On the floor Ms. ___ continued to complain of ___ pain 
during her first day, in addition to fatigue. Initial treatment 
for her cellulitis was vancomycin 1g Q24H and cefepime 2g IV 
q24h. This was switched to PO clindamycin Q6H 300mg Q6H on ___ 
evening, following a discussion with PCP ___, and in 
accordance to a feeling that the infection was superficial and 
less likely to be pseudamonas.
.
Workup of edema started from ddx of CHF (favored by edema, risk 
factors including HTN, HLD, CAD, BNP 5780, disfavored by lack of 
JVD and pulmonary edema) / liver disease (favored by chronic Hep 
C, chronic hypoalbuminemia) and nephrotic syndrome (favored by 
hypoalbuminemia, hypertriglyceridemia, and chronic hepC). Spot 
urine protein:Cr 15.8 on ___ suggestive of nephrotic syndrome. 
Will continue diuresis and salt restrict (already on heart 
healthy diet).  Pt had high protein creatinine ratio and 
hypoalbuminemic.  Pt slowly improved and biopsy was not done 
while pt was inpatient.  She slowly improved and her symptoms 
resolved.  Renal was considering a renal biopsy, but felt that 
her symptoms were likely related to diabetic nephropathy.  In 
the course of this discussion, the patient refused to stay in 
the hospital and demanded to leave.  We scheduled outpatient 
follow up with Dr. ___ in order to further work up possible 
liver disease in lieu of her hepatitis C.  
.
Diabetes - Pt was admitted to the floor hyperglycemic with a ___ 
of 321.  She was started on an insulin sliding scale, but her 
sugars were difficult to control.  We adjusted her sliding scale 
as necessary and at time of discharge her finger sticks were 
within an acceptable range.  Pt gabapentin was also continued 
for her diabetic neuropathy.
.  
Asthma - patient was currently asymptomatic.  Continued daily 
advair therapy 500 mcg-50 mcg/Dose 1 puff twice a day and will 
order Albuterol nebulizer treatment PRN for exacerbation.  Pt 
did not have asthmatic symptoms throughout the course of her 
hospital stay.
.   
Bronchitis - Patient is currently asymptomatic. Will not give 
Prednisone in the hospital as patient bronchitis seems to have 
resolved. Will discuss with patient the last dose and taper 
accordingly.  
.
Depression - Asymptomatic at this time.  Pt was not expressing 
any signs of depression.  Continued Bupropion and Escitalopram 
during the course of her hospital stay.
.  
Hypothyroidism - Pt was asymptomatic throughout the course of 
her hospital stay and was continued on levothyroxine.
.
Pt was demanding to leave the hospital at the time of discharge. 
 We recommended that she stayed in the hospital, but she was 
refusing and we felt that at this point in her medical treatment 
she was stable for discharge with further work up in the 
outpatient setting.

 
Medications on Admission:
 - Lisinopril 10mg PO daily
 - Atenolol 75mg daily
 - Furosemide 20mg BID
 - ASA 81mg daily
 - Spironolactone 25mg daily
 - Albuterol Sulfate 0.83% neb Q4H PRN
 - Albuterol Sulfate 90mcg HFA inhaler 2 puffs QID PRN
 - Fluticasone-Salmeterol 500mcg/50mcg 1 puff BID
 - Prednisone 10mg daily
 - Gabapentin 600mg daily
 - Insulin Lispro 10u with breakfast with sliding scale at 
dinner
 - NPH insulin 35 units QAM and 30 units QPM
 - Levothyroxine 200mcg PO daily
 - Calcium Carbonate/Vitamin D3 600mg/200unit PO daily
 - Cephalexin 500mg PO QID
 - Citalopram 20mg QHS
 - Buproprion HCL 100mg PO daily
 - Nitroglycerin O.3 mg SL PRN

 
Discharge Medications:
 - Lisinopril 10mg PO daily
 - Atenolol 75mg daily
 - Furosemide 20mg IV (once)
 - Furosemide 20mg PO (starting tomorrow AM)
 - Spironolactone 25mg daily
 - Albuterol Sulfate 0.83% neb Q4H PRN
 - Albuterol Sulfate 90mcg HFA inhaler 2 puffs QID PRN
 - Fluticasone-Salmeterol 500mcg/50mcg 1 puff BID
 - Gabapentin 600mg daily
 - Insulin Sliding Scale
 - Levothyroxine 200mcg PO daily
 - Calcium Carbonate/Vitamin D3 500mg/400unit PO daily
 - Cephalexin 500mg PO QID
 - Citalopram 20mg QHS
 - Buproprion HCL 100mg PO daily
 - Nitroglycerin O.3 mg SL PRN

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cellulitis, Nephrotic syndrome
 
Discharge Condition:
Pt is currently stable, her cellulitis is improving, and she is 
in negative fluid balance.  A & O x3.  Ambulated with a cane.

 
Discharge Instructions:
Ms. ___ is currently stable and has had a stable hospital 
course.  She is on day ___ of her clindamycin 300mg 4 times a 
day.  She will be discharged on this medication which should be 
competed by ___.  In addition, she was being worked up for 
her diagnosis of nephrotic syndrome vs. severe diabetic 
nephropathy.  Please continue her lasix 40mg twice a day.  Ms 
___ please do not take any NSAIDs over the counter such as 
Alleve.  You should have your potassium checked next week. You 
should follow up with Dr. ___ a possible kidney biopsy. 
 It is very important that you follow up with your primary care 
physician.
.
The following medications were started:
-clindamycin 300 four times a day (every 6 hrs-please set an 
alarm if this helps you remember)
.
The following medications were increased in dose:
-lasix increased to 40mg twice a day
-lisinopril increased to 20mg once a day
.
The following medication was discontinued:
-spironolactone
-prednisone
-(we know you are no longer taking citalopram)
.
The following medications were continued at their previous dose:
-atenolol 75mg daily
-aspirin 81mg daily
-albuterol nebs and inhaler at previous dose
-fluticasone-salmeterol 1 puff twice a day
-gabapentin 600mg daily
-pls continue previous home dosing of insulin
-levothyroxine 200mcg daily
-continue home doses of calcium and vit D
-buproprion 100mg daily
-nitroglycerin 0.3mg sl prn
 
Followup Instructions:
___